US08802664B2
To a solution of 4-{3-[(1H-benzimidazol-2-yl)(1-methylpiperidin-4-yloxy)-methyl]phenyl}-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (407 mg) in dichloromethane (2 mL) is added trifluoroacetic acid (1 mL). After 2 hours at room temperature, volatiles are removed under reduced pressure. The mixture is diluted with water, basified to pH 10 by adding of an aqueous saturated solution of sodium carbonate and extracted with ethyl acetate. The pooled organic extracts are dried over magnesium sulfate and concentrated under reduced pressure. The residue is purified by chromatography (gradient dichloromethane/methanol/ammonia from 100/0/0 to 85/15/1.5) to afford 2-{(1-methylpiperidin-4-yloxy)[3-(1,2,3,6-tetrahydro-pyridin-4-yl)phenyl]methyl}-1H-benzimidazole.

reactant | 4-{3-[(1H-benzimidazol-2-yl)(1-methylpiperidin-4-yloxy)-methyl]phenyl}-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 407 mg | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CC(=CC=C1)C(OC1CCN(CC1)C)C1=NC2=C(N1)C=CC=C2 | C30H38N4O3
reactant | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 2-{(1-methylpiperidin-4-yloxy)[3-(1,2,3,6-tetrahydro-pyridin-4-yl)phenyl]methyl}-1H-benzimidazole | CN1CCC(CC1)OC(C1=NC2=C(N1)C=CC=C2)C2=CC(=CC=C2)C=2CCNCC2 | C25H30N4O
